US07229797B1
Removal of excess FDP and dX1P by degradation via DHAP
For removing dX1P the acetaldehyde was evaporated and the solution was diluted with water to reach 30 ml. It was mixed with 3 ml 2.65 M sodium formate solution (8 mmol), and sodium hydroxide solution was added until a pH of 7.4 was reached. 23 U formate dehydrogenase (FDH), 6 mg NADH, 16 U RAMA and 20 U glycerolphosphate dehydrogenase (GDH) were added.

reactant | sodium formate | 8 mmol, 2.65 M, 3 ml | C(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | formate | C(=O)[O-]
reactant | NADH | 6 mg | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)O)N | C21H29N7O14P2
product | DHAP | C(C(=O)COP(=O)(O)O)O | C3H7O6P
